US08975254B2
a) 4-(4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-2-chlorobenzonitrile
2-chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile (10 g, 34.8 mmol) and acetonitrile (120 ml) were added into a flask and the temperature was adjusted to 0° C. with an ice bath. N-bromosuccinimide (6.80 g, 38.2 mmol) was added in small batches keeping the temperature below 5° C. The mixture was stirred at room temperature for 3 h. 10% NaHSO3 (100 ml) was added and the mixture was stirred for 15 min. The reaction mixture was extracted with DCM. The combined organic phases were dried, filtered and evaporated. The product was purified by recrystallization from ethanol. Yield 82%. 1H-NMR (400 MHz; DMSO-d6): δ 1.51-1.59 (m, 2H), 1.62-1.76 (m, 1H), 1.90-2.00 (m, 2H), 2.06-2.18 (m, 1H), 3.62-3.70 (m, 1H), 3.91-3.98 (m, 1H), 5.49 (dd, 1H), 8.02 (dd, 1H), 8.09 (d, 1H), 8.12 (d, 1H), 8.38 (s, 1H).

reactant | 2-chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 34.8 mmol, 10 g | ClC1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14ClN3O
reactant | N-bromosuccinimide | 38.2 mmol, 6.80 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaHSO3 | 100 ml | OS(=O)[O-].[Na+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 4-(4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-2-chlorobenzonitrile | Yield 82% | BrC=1C=NN(C1C1=CC(=C(C#N)C=C1)Cl)C1OCCCC1 | C15H13BrClN3O
